US05559230
A mixed solution of 5-(2-chloroacetylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.6 g), imidazole (0.1 g) and potassium carbonate (0.19 g) in acetonitrile (30 ml) is refluxed for 8 hours. The reaction solution is concentrated and the resulting residue is washed with water and separated by decantation. The remainder is purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1→15:1), and recrystallized from ethanol/n-hexane to give 5-[2-(1-imidazolyl)acetylamino]-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.15 g) as colorless needles, m.p. 250°-252° C.

reactant | 5-(2-chloroacetylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.6 g | ClCC(=O)NC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C27H26ClN3O3
reactant | imidazole | 0.1 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-[2-(1-imidazolyl)acetylamino]-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.15 g | N1(C=NC=C1)CC(=O)NC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C30H29N5O3
